US07375227B2
1-[2-(4-Benzyl-4-hydroxy-piperidin-1-yl)-ethyl]-3-(2-methyl-quinolin-4-yl)-urea
To a solution of 4-hydroxy-4-benzyl-piperidine (380.6 mg, 2 mmol) in dry THF (10 mL) is added 1-(2-chloro-ethyl)-3-(2-methyl-quinolin-4-yl)-urea (263.7 mg, 1 mmol) and solid NaHCO3 (672 mg, 8 mmol). The reaction mixture is stirred at 45° C. for 6 days. The reaction mixture is diluted with CH2Cl2 (100 mL) and washed with sat. Na2CO3 (2×30 mL). The aqueous phase is re-extracted with CH2Cl2 (2×25 mL), the combined organic phases are washed with brine (20 mL), dried (Na2SO4), filtered and evaporated. The residue is purified by preparative HPLC to provide the title compound.

reactant | 4-hydroxy-4-benzyl-piperidine | 2 mmol, 380.6 mg | OC1(CCNCC1)CC1=CC=CC=C1 | C12H17NO
reactant | 1-(2-chloro-ethyl)-3-(2-methyl-quinolin-4-yl)-urea | 1 mmol, 263.7 mg | ClCCNC(=O)NC1=CC(=NC2=CC=CC=C12)C | C13H14ClN3O
reactant | NaHCO3 | 8 mmol, 672 mg | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-[2-(4-Benzyl-4-hydroxy-piperidin-1-yl)-ethyl]-3-(2-methyl-quinolin-4-yl)-urea | C(C1=CC=CC=C1)C1(CCN(CC1)CCNC(=O)NC1=CC(=NC2=CC=CC=C12)C)O | C25H30N4O2
